US09034880B2
Preparation of 5-(4-chlorophenethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole-8-carboxylic acid (Compound 327)
The title compound is prepared by following Method 8 by using 1-(2-bromoethyl)-4-chlorobenzene, methyl 4-hydrazinobenzoate, triethylamine and N-methyl-4-piperidone

reactant | 1-(2-bromoethyl)-4-chlorobenzene | BrCCC1=CC=C(C=C1)Cl | C8H8BrCl
reactant | methyl 4-hydrazinobenzoate | N(N)C1=CC=C(C(=O)OC)C=C1 | C8H10N2O2
reactant | N-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-(4-chlorophenethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole-8-carboxylic acid | ClC1=CC=C(CCN2C3=C(C=4C=C(C=CC24)C(=O)O)CN(CC3)C)C=C1 | C21H21ClN2O2
